US05104888
5-[4-(6-Hydroxy-5,7,8-trimethyl-4-oxochroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione
The procedure described in Example 3 was repeated, but using 2.2 g of ethyl 3-[4-(6-acetoxy-2-hydroxy-5,7,8-trimethyl-4-oxochroman-2-ylmethoxy) phenyl]-2-chloropropionate (prepared as described in Preparation 45), 0.8 g of thiourea, 4.5 g of sulfolane, 70 ml of ethylene glycol monomethyl ether, 8 ml of water and 4 ml of 35% w/v aqueous hydrochloric acid, to give the title compound, melting at 249°-252° C.

reactant | ethyl 3-[4-(6-acetoxy-2-hydroxy-5,7,8-trimethyl-4-oxochroman-2-ylmethoxy) phenyl]-2-chloropropionate | 2.2 g | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(O)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl)=O)C | C26H29ClO8
reactant | thiourea | 0.8 g | NC(=S)N | CH4N2S
reactant | sulfolane | 4.5 g | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | hydrochloric acid | Cl | ClH
solvent | water | 8 ml | O | H2O
solvent | ethylene glycol monomethyl ether | 70 ml | COCCO | C3H8O2
product | 5-[4-(6-Hydroxy-5,7,8-trimethyl-4-oxochroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione | OC=1C(=C2C(CC(OC2=C(C1C)C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)=O)C | C23H23NO6S
